US08871767B2
6-(2-fluorophenyl)pyridazin-3-amine
To a mixture of 6-chloropyridazin-3-amine (3.00 g, 23.1 mmol), 4-fluorophenylboronic acid (34.7 mmol), Na2CO3 (69.3 mmol) in 2-propanol (150 mL) and water (50 mL) that has been degassed with N2 (5 minutes) is added PdCl2(PPh3)2(1.15 mmol). The mixture is heated at 80° C. for 12 hours, concentrated under reduced pressure, added sat. aqueous NaHCO3 (100 mL) and extracted with EtOAc (3×100 mL). Organic layer is collected, dried over Na2SO4, filtered and concentrated to dryness. The crude product is purified via chromatography using a gradient of CH2Cl2 to 70% CH2Cl2:EtOAc:methanol (1:1:0.1) to afford the title compound (3.82 g, 87%) as a white solid: Rf 0.37 (1:1:0.1 CH2Cl2:EtOAc:methanol); LCMS (m/z)=190.2 [M+H]+, tR=0.44 min.

reactant | 6-chloropyridazin-3-amine | 23.1 mmol, 3.00 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | 4-fluorophenylboronic acid | 34.7 mmol | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 69.3 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 2-propanol | 150 mL | CC(C)O | C3H8O
solvent | water | 50 mL | O | H2O
catalyst | PdCl2(PPh3)2 | 1.15 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(2-fluorophenyl)pyridazin-3-amine | 3.82 g, 87% | FC1=C(C=CC=C1)C1=CC=C(N=N1)N | C10H8FN3
